US06964961B2
B. (7-chloro-thieno[3,2-b]pyridin-2-yl)-pyrrolidin-1-yl-methanone
A solution of lithium 7-chloro-thieno[3,2-b]pyridine-2-carboxylate (0.50 g, 2.4 mmol), thionyl chloride (3.5 mmol, 1.8 ml), CH2Cl2 (20 ml), and DMF (0.2 ml) was heated to reflux. After 3 h the resulting yellow solution was concentrated under reduced pressure, and the residue was suspended in CH2Cl2 (20 mL). Pyrrolidine (2.35 mmol, 167 mg) was then added dropwise. After 12h the reaction mixture was concentrated onto silica gel (5 mL) and purified by flash chromatography on silica gel eluting with CH2Cl2/MeOH (97/3) to afford the title compound as a white solid (360 mg, 57%). MS: 266.9/268.9 (MH+); HPLC Rf: 4.51 min; HPLC purity: 98%.

reactant | lithium 7-chloro-thieno[3,2-b]pyridine-2-carboxylate | 2.4 mmol, 0.50 g | ClC1=C2C(=NC=C1)C=C(S2)C(=O)[O-].[Li+]
reactant | thionyl chloride | 3.5 mmol, 1.8 ml | S(=O)(Cl)Cl | Cl2OS
reactant | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
reactant | Pyrrolidine | 2.35 mmol, 167 mg | N1CCCC1 | C4H9N
solvent | DMF | 0.2 ml | CN(C)C=O | C3H7NO
product | (7-chloro-thieno[3,2-b]pyridin-2-yl)-pyrrolidin-1-yl-methanone | 360 mg, 57% | ClC1=C2C(=NC=C1)C=C(S2)C(=O)N2CCCC2 | C12H11ClN2OS
